US06342765B1
2-(Imidazol-1-yl)-1-(thiazol-2-yl)ethanone was reduced with sodium borohydride in methanol to give 2-(imidazol-1-yl)-1-(thiazol-2-yl)ethanol in 60% yield.

reactant | 2-(Imidazol-1-yl)-1-(thiazol-2-yl)ethanone | N1(C=NC=C1)CC(=O)C=1SC=CN1 | C8H7N3OS
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(imidazol-1-yl)-1-(thiazol-2-yl)ethanol | 60% yield | N1(C=NC=C1)CC(O)C=1SC=CN1 | C8H9N3OS
